US05605910
B. 1-Aminomethyl-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene
14.6 g (50 mmol) of 4-benzyl-1-cyano-4-azatricyclo-[5.2.2.02,6 ]undec-8-ene-3,5-dione are reduced with 5 g of LiAlH4 as described under Z 1-B and the mixture is worked up accordingly.

reactant | 4-benzyl-1-cyano-4-azatricyclo-[5.2.2.02,6 ]undec-8-ene-3,5-dione | 50 mmol, 14.6 g | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)CC3)C#N)=O | C18H16N2O2
reactant | LiAlH4 | 5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 1-Aminomethyl-4-benzyl-4-azatricyclo[5.2.2.02,6 ]undec-8-ene | NCC12C3CN(CC3C(C=C1)CC2)CC2=CC=CC=C2 | C18H24N2
